US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]pyridine-2-carboxamide
To a solution of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (155 mg, 0.50 mmol) in N-methylpyrrolidone (3 mL) was added pyridine-2-carbonylchloride hydrochloride (107 mg, 0.60 mmol), and the mixture was stirred at room temperature for 18 hr. A 5% aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→80/20) and crystallized from ethyl acetate to give the title compound (131 mg, yield 63%) as a white solid.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.50 mmol, 155 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | pyridine-2-carbonylchloride hydrochloride | 0.60 mmol, 107 mg | Cl.N1=C(C=CC=C1)C(=O)Cl
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N-methylpyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]pyridine-2-carboxamide | 131 mg, yield 63% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2)C1 | C22H18N6O3
